US05908858
16(i) N-(4-Methylbenzylidene)-4-sulfamoylaniline
Following a procedure similar to that described in Example 1(i), but using 4-methylbenzaldehyde and 4-sulfamoylaniline as starting materials, the title compound was obtained as a white powder (yield 91%).

reactant | 4-methylbenzaldehyde | CC1=CC=C(C=O)C=C1 | C8H8O
reactant | 4-sulfamoylaniline | S(N)(=O)(=O)C1=CC=C(N)C=C1 | C6H8N2O2S
product | N-(4-Methylbenzylidene)-4-sulfamoylaniline | CC1=CC=C(C=NC2=CC=C(C=C2)S(N)(=O)=O)C=C1 | C14H14N2O2S
